US04011225
2-(3'-Phenyl-3'-oxopropyl)cyclohexanone was prepared according to the method of W. Hahn and J. Epsztain (Roczniki Chem. 1963, 37, 403-12): A mixture of β-dimethylaminopropiophenone (27 gm.) and cyclohexanone (37.5 g.) were heated at reflux for 5 hours under nitrogen and the solvent removed in vacuo. The residual oil was distilled giving 2-(3'-phenyl-3'-oxopropyl)cyclohexanone (14 g.) which was cyclised to the title compound according to the method of Hahn and Epsztain by dissolving the diketone (12 g.) in ethanol (65 ml.), treating with hydroxylamine hydrochloride (9 g.) and heating under reflux for 1 hour. The cooled reaction mixture was poured onto water (300 ml.), extracted with ether (2 × 50 ml.) and the extracts discarded. The aqueous solution was made basic with K2CO3 and extracted with ether (3 × 50 ml.). The combined ether extracts were dried and the solvent removed in vacuo. The residual oil was distilled to give the title compound as a colourless oil (7 g.) b.p. 134°-8° C/15 mm.

reactant | β-dimethylaminopropiophenone | 27 gm | CN(CCC(=O)C1=CC=CC=C1)C | C11H15NO
reactant | cyclohexanone | 37.5 g | C1(CCCCC1)=O | C6H10O
product | 2-(3'-phenyl-3'-oxopropyl)cyclohexanone | 14 g | C1(=CC=CC=C1)C(CCC1C(CCCC1)=O)=O | C15H18O2
